US07276511B2
Synthesis of 1-(3,4,5-trimethoxybenzyloxy)-2-(S)-(3,4-dichlorophenyl)-2-(N-methylamino)-4-pentene
Under argon, a solution of 2-(S)-(3,4-dichlorophenyl)-2-methylamino-4-penten-1-ol (8.5 g) in anhydrous N,N-dimethylformamide (50 mL) was added to a suspension of sodium hydride (1.5 g) in anhydrous N,N-dimethylformamide (50 mL) under cooling with ice, and the mixture was stirred for 1 hour at room temperature. A solution of 3,4,5-trimethoxybenzyl chloride (7.8 g) in anhydrous N,N-dimethylformamide (30 mL) was added to the reaction mixture under cooling with ice, and the resultant mixture was stirred overnight at room temperature. The reaction mixture was poured into ice-water, extracted with ether, sequentially washed with water and saturated brine, and dried over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (n-hexane:ethyl acetate=5:1 to 2:1→ethyl acetate), to thereby give the title compound (11.8 g, 81.8%).

reactant | 2-(S)-(3,4-dichlorophenyl)-2-methylamino-4-penten-1-ol | 8.5 g | ClC=1C=C(C=CC1Cl)[C@](CO)(CC=C)NC | C12H15Cl2NO
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 3,4,5-trimethoxybenzyl chloride | 7.8 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(3,4,5-trimethoxybenzyloxy)-2-(S)-(3,4-dichlorophenyl)-2-(N-methylamino)-4-pentene | 11.8 g, 81.8% | COC=1C=C(COC[C@@](CC=C)(NC)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C22H27Cl2NO4
